US05082856
Into 20 ml of anhydrous ether was dissolved 4.00 g (15 mmol) of 2-tetradecylpyrrole obtained in Synthetic Example 2, and then 7 ml (21 mmol) of ca. 3M ethereal solution of methylmagnesium bromide was added thereto at room temerature. The resulting mixture was heated under reflux for 30 minutes. Under cooling with ice water, 2 ml (21 mmol) of ethyl chlorocarbonate was added to the mixture. After heating under reflux for 10 hours, the resulting mixture was cooled to room temperature, poured into ice water containing ammonium chloride, and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous megnesium sulfate. After removing the solvent under reduced pressure, the residue was purified by subjecting it to column chromatography (eluent: ethyl acetate/hexane=1/10) to obtain 1.89 g (37% yield) of ethyl 5-tetradecylpyrrole-2-carboxylate, m.p. 60°-63° C.

reactant | 2-tetradecylpyrrole | 15 mmol, 4.00 g | C(CCCCCCCCCCCCC)C=1NC=CC1 | C18H33N
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ethyl chlorocarbonate | 21 mmol, 2 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | ethyl 5-tetradecylpyrrole-2-carboxylate | 1.89 g, 37% yield | C(CCCCCCCCCCCCC)C1=CC=C(N1)C(=O)OCC | C21H37NO2
